US07601856B2
Following the procedure of Example 1, 6,7,8,9,10,11-Hexahydro-benzo[b]-cycloocta[d]furan-2-ylamine (1.1 g, 5.0 mmol) and trimethylacetyl chloride (0.68 mL, 5.5 mmol) in pyridine (10 mL) provided 2,2-dimethyl-N-[6,7,8,9,10,11-hexahydro-benzo[b]-cycloocta[d]-furan-2-yl]propionamide (0.74 g). Mp 189-190° C.; MS (FAB) m/z 300 ([M+H]+); Anal. Calcd. for C19H25NO2: C, 76.22; H, 8.42; N, 4.68; Found: C, 76.57; H, 8.38; N, 4.62.

reactant | 6,7,8,9,10,11-Hexahydro-benzo[b]-cycloocta[d]furan-2-ylamine | 5.0 mmol, 1.1 g | C1=C(C=CC=2OC3=C(C21)CCCCCC3)N | C14H17NO
reactant | trimethylacetyl chloride | 5.5 mmol, 0.68 mL | CC(C(=O)Cl)(C)C | C5H9ClO
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 2,2-dimethyl-N-[6,7,8,9,10,11-hexahydro-benzo[b]-cycloocta[d]-furan-2-yl]propionamide | 0.74 g | CC(C(=O)NC1=CC2=C(OC3=C2CCCCCC3)C=C1)(C)C | C19H25NO2
